US08609710B2
To dimethyl malonate (102 mL), a solution of sodium methoxide in methanol (28%, 90.4 mL) was added at room temperature, and the mixture was stirred at 60° C. for 30 minutes. The white suspension was cooled to room temperature. Then, tert-butyl (3-bromopropyl)carbamate (106 g) was added thereto at once, and the mixture was stirred at room temperature for 12 hours. To the reaction solution, water was added, and organic matter was extracted with diethyl ether. The organic layer was washed with a 1 N aqueous sodium hydroxide and saturated sodium chloride solution in this order, then dried over anhydrous sodium sulfate, and filtered, and the solvent was distilled off under reduced pressure to obtain a crude product of dimethyl {3-[(tert-butoxycarbonyl)amino]propyl}malonate. The obtained ester (94 g) was dissolved in methanol (100 mL). To the solution, a solution of lithium hydroxide monohydrate (13.6 g) in water (300 mL) and methanol (300 mL) was added at 0° C., and the mixture was stirred at room temperature for 15 hours. Methanol was distilled off under reduced pressure, and organic matter was extracted with ethyl acetate. 2 N hydrochloric acid (160 mL) was added to the aqueous layer, followed by extraction with ethyl acetate. The organic layer was washed with saturated sodium chloride solution, then dried over anhydrous sodium sulfate, and filtered, and the solvent was distilled off under reduced pressure to obtain a crude product. This crude product was purified by silica gel column chromatography (eluting solvent: methylene chloride-methylene chloride/methanol=10/1) to obtain the title compound (69.1 g).

reactant | dimethyl malonate | 102 mL | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | sodium methoxide | C[O-].[Na+]
reactant | tert-butyl (3-bromopropyl)carbamate | 106 g | BrCCCNC(OC(C)(C)C)=O | C8H16BrNO2
reactant | water | O | H2O
solvent | methanol | 90.4 mL | CO | CH4O
product | dimethyl {3-[(tert-butoxycarbonyl)amino]propyl}malonate | C(C)(C)(C)OC(=O)NCCCC(C(=O)OC)C(=O)OC | C13H23NO6
